US05264435
Production of 2-(4-Diphenylmethylpiperazino)-5,6-Dihydro-7-Methyl-6-Oxo(7H)Pyrrolo[2,3-d]Pyrimidine Hydrochloride (Compound No. 3128)
Concentrated hydrochloric acid (0.23 g; 2.2 mmoles) was added to an ethanol/methylene chloride solution of 2-(4-diphenylmethylpiperazino)-5,6-dihydro-7-methyl-6-oxo(7H)pyrrolo[2,3-d]pyrimidine, and the solution was stirred at room temperature for 1 hour. The solvent was then evaporated under reduced pressure. The residue was washed with ether to give 0.88 g (yield 90%).

reactant | hydrochloric acid | 2.2 mmoles, 0.23 g | Cl | ClH
reactant | 2-(4-diphenylmethylpiperazino)-5,6-dihydro-7-methyl-6-oxo(7H)pyrrolo[2,3-d]pyrimidine | C1(=CC=CC=C1)C(N1CCN(CC1)C=1N=CC2=C(N1)N(C(C2)=O)C)C2=CC=CC=C2 | C24H25N5O
solvent | ethanol methylene chloride | C(C)O.C(Cl)Cl
product | 2-(4-Diphenylmethylpiperazino)-5,6-Dihydro-7-Methyl-6-Oxo(7H)Pyrrolo[2,3-d]Pyrimidine Hydrochloride | yield 90% | Cl.C1(=CC=CC=C1)C(N1CCN(CC1)C=1N=CC2=C(N1)N(C(C2)=O)C)C2=CC=CC=C2 | InChI=1S/C24H25N5O.ClH/c1-27-21(30)16-20-17-25-24(26-23(20)27)29-14-12-28(13-15-29)22(18-8-4-2-5-9-18)19-10-6-3-7-11-19;/h2-11,17,22H,12-16H2,1H3;1H
